US08455646B2
Preparation of (R)-3-[(R)-2-(4-fluoro-phenylamino)-2-phenyl-acetoxyl-1-(2-oxo-2-thiophen-2-yl-ethyl)-1-azonia-bicyclo[2.2.2]octane chloride (C255)
To a solution of (R)-(4-fluoro-phenylamino)-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester (C254) (200 mg, 0.56 mmol) in CH3CN (2 mL), is added 2-chloro-1-(thiophen-2-yl)ethanone (100 mg, 0.62 mmol). The reaction is heated at 100° C. for 1 hour under MW irradiation. The solvent is evaporated and the crude is purified by flash chromatography (DCM/MeOH=9/1) recovering the title compound as a white solid (104 mg, 36% yield, chloride salt, single diastereoisomer).

reactant | (R)-(4-fluoro-phenylamino)-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester | 0.56 mmol, 200 mg | N12C[C@@H](C(CC1)CC2)OC([C@@H](C2=CC=CC=C2)NC2=CC=C(C=C2)F)=O | C21H23FN2O2
reactant | 2-chloro-1-(thiophen-2-yl)ethanone | 0.62 mmol, 100 mg | ClCC(=O)C=1SC=CC1 | C6H5ClOS
solvent | CH3CN | 2 mL | CC#N | C2H3N
product | (R)-2-(4-fluoro-phenylamino)-2-phenyl-acetoxyl-1-(2-oxo-2-thiophen-2-yl-ethyl)-1-azonia-bicyclo[2.2.2]octane chloride | 104 mg, 36% yield | [Cl-].FC1=CC=C(C=C1)NC(C(O[C@H]1[N+]2(CCC(C1)CC2)CC(C=2SC=CC2)=O)=O)C2=CC=CC=C2 | InChI=1S/C27H28FN2O3S.ClH/c28-21-8-10-22(11-9-21)29-26(20-5-2-1-3-6-20)27(32)33-25-17-19-12-14-30(25,15-13-19)18-23(31)24-7-4-16-34-24;/h1-11,16,19,25-26,29H,12-15,17-18H2;1H/q+1;/p-1/t19?,25-,26?,30?;/m1./s1
